US05210092
A mixture of 2-pyridyl acetonitrile (5.0 g) and 2-bromo-4'-methylacetophenone (8.52 g) in acetone (10 ml) was heated at 80° C. for 24 hours, during which 2-pyridylacetonitrile (1 g, 2 g) was added to the reaction mixture. After being cooled, the solvent was removed in vacuo and the residue was chromatographed on silica gel eluted with a mixture of ethyl acetate and n-hexane (1:6 to 1:2, V/V) to give a solid product. This product was recrystallized from ethanol-water to give 2-(4-methylphenyl)indolizine-1-carbonitrile (4.1 g) as a pale brown powder.

reactant | 2-pyridyl acetonitrile | 5.0 g | N1=C(C=CC=C1)CC#N | C7H6N2
reactant | 2-bromo-4'-methylacetophenone | 8.52 g | BrCC(=O)C1=CC=C(C=C1)C | C9H9BrO
reactant | 2-pyridylacetonitrile | 1 g | N1=C(C=CC=C1)CC#N | C7H6N2
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 2-(4-methylphenyl)indolizine-1-carbonitrile | 4.1 g | CC1=CC=C(C=C1)C=1C(=C2C=CC=CN2C1)C#N | C16H12N2
